reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1](=[C:2](/[O:3][H:7])[O:4]/[C:5](=[N:6]/[H:10])[H:9])\[H:8]>>[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8],30.5481037090462
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]1[C@@:2]([C:5]#[C:6][H:10])([H:8])[C@@:3]1([O:4][H:7])[H:9],56.1625483649393
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([O+:7]=[C-:6][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],110.726233148215
[C:1]([C@@:2]1([H:11])[C@@:3]([N:7]([H:13])[H:14])([H:12])[O:4][C:5]1=[O:6])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],57.560484886476914
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([O:3][H:7])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:8])[H:9],65.26026589764571
[O:1]=[C:2]([O:3][C:4]([C:6](=[C:5])[H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7],11.947420416962387
[O:1]([C+:2]([N:3]([C:4](=[C:5]=[N-:6])[H:10])[H:8])[H:7])[H:9]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],2.911996815044091
[C:1]([O+:2]=[C-:3][O:4][C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9],33.89364658035103
[C:1]([C:2](/[N:3]=[C:7](/[N:6]1[C:4]([H:13])=[C:5]1[H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],22.13542436777179
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N+:2]([C-:3]([H:10])[H:12])=[C:4]([H:13])[H:14])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:15],61.7440002396064
[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:5][C:4](=[C:2]=[O:3])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],104.423305463832
[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([O:6][H:16])[H:15],87.1592261683671
[C:1](=[N:2][C:5]([O:6][C:3](=[O:4])[H:10])([H:7])[H:11])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],74.42401626133491
[C:1]([C:2]([C:3](=[O:4])[O+:6]=[C-:5][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],12.410903940187602
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])=[C:4]1[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:12][H:16],101.741060500513
[C:5]=[N:6][H:7].[N:1](=[C:2](/[C:3]#[C:4][H:10])[H:9])\[H:8]>>[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8],35.1881185228284
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1]1[C@@:2]2([H:8])[C:3]([H:9])([H:10])[C@@:4]2([H:11])[C@@:5]1([O:6][H:7])[H:12],53.455995956232606
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6]>>[O:1]=[C:2]([C:3]#[C:4][H:7])[N+:6]#[C-:5],44.356148652696
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5](=[O:6])[H:14])([H:12])([H:13])[H:15],71.935675904037
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O+:5]=[C-:6][O:7][H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],76.8563252765019
[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O+:5]=[C-:4][H:12])[H:13])([H:6])([H:7])[H:8],78.1831755778623
[O:1]([C@@:2]([C:3]([H:10])([H:11])[H:12])([C-:4]=[O+:5][C:6](=[O:7])[H:13])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],16.896471071881507
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])[H:10].[C:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])([H:9])[H:11],110.731346198996
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:11])([C:4]([H:12])([H:13])[H:15])[H:10])([H:7])([H:8])[H:9].[C:5]([O:6][H:16])[H:14],86.03509684933121
[O:1]([C:2](=[C:3]=[O:4])[H:7])[C:5]#[C:6][H:8]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7],57.349801773372505
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:5]/[C:4](=[C:2](/[O:3][H:11])[C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],85.40319463390009
[C:1]([C:4](=[C:3]=[C:2]([H:10])[H:11])[C:5]([O:6][H:14])([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],95.89332905734801
